US07078369B2
Methyl 2-(aminosulfonyl)-6-nitrobenzoate
300 mg (0.948 mmol) of methyl 2-[(tert-butylamino)sulfonyl]-6-nitrobenzoate in 8 ml of trifluoroacetic acid are stirred at room temperature for 4 h. The mixture is subsequently concentrated to dryness under reduced pressure and the residue is digested with diethyl ether. After filtration with suction and drying, 230 mg (93% of theory) of methyl 2-(aminosulfonyl)-6-nitrobenzoate of m.p. 227-229° C. remain.

reactant | methyl 2-[(tert-butylamino)sulfonyl]-6-nitrobenzoate | 0.948 mmol, 300 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C12H16N2O6S
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 2-(aminosulfonyl)-6-nitrobenzoate | NS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H8N2O6S
